US07459562B2
B) 1-Benzyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid
A solution of methyl 1-benzyl-2-oxo-1,2-dihydropyridine-3-carboxylate (2.4 g, 9.2 mmol, 1.0 eq) in MeOH (25 mL) was treated with 5N aqueous sodium hydroxide (4.6 mL, 24 mmol, 2.6 eq) at room temperature and the reaction mixture was stirred for 15 h. The reaction mixture was then concentrated in vacuo, diluted with water and the solution was extracted with ethyl acetate, discarding the organic fraction. The aqueous fraction was cooled to 0° C. and was acidified with concentrated HCl. The resulting solid was filtered, washed with water and the solid dried in vacuo to afford the product (1.6 g, 70%), which was used without further purification. 1H NMR (DMSO-d6) δ 8.39-8.44 (m, 2H), 7.42-7.46 (m, 2H), 7.18-7.24 (m, 2H), 6.78 (dd, 1H, J=6.98 Hz), 5.31 (s, 2H); HRMS(ESI+), Calcd.: 248.0723, found: 248.0718.

reactant | methyl 1-benzyl-2-oxo-1,2-dihydropyridine-3-carboxylate | 9.2 mmol, 2.4 g, 1.0 eq | C(C1=CC=CC=C1)N1C(C(=CC=C1)C(=O)OC)=O | C14H13NO3
reactant | sodium hydroxide | 24 mmol, 5N, 4.6 mL, 2.6 eq | [OH-].[Na+]
solvent | MeOH | 25 mL | CO | CH4O
product | 1-Benzyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 1.6 g, 70% | C(C1=CC=CC=C1)N1C(C(=CC=C1)C(=O)O)=O | C13H11NO3
